US05175157
2-[(N-(3-(3-Methoxy-phenoxy)-propyl)-piperidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[(piperidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-3-(3-methoxy-phenoxy)-propane analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CN1C(C2=CC3=C(C=C2CC1)OCO3)=O | C16H20N2O3
reactant | 1-chloro-3-(3-methoxy-phenoxy)-propane | ClCCCOC1=CC(=CC=C1)OC | C10H13ClO2
product | 2-[(N-(3-(3-Methoxy-phenoxy)-propyl)-piperidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.COC=1C=C(OCCCN2CC(CCC2)CN2C(C3=CC4=C(C=C3CC2)OCO4)=O)C=CC1 | InChI=1S/C26H32N2O5.ClH/c1-30-21-6-2-7-22(14-21)31-12-4-10-27-9-3-5-19(16-27)17-28-11-8-20-13-24-25(33-18-32-24)15-23(20)26(28)29;/h2,6-7,13-15,19H,3-5,8-12,16-18H2,1H3;1H
